US06350749B1
To a solution of 20% sodium ethoxide in ethanol (0.43 g) was added at room temperature diethyl malonate (0.2 g), and then added little by little 4-(2-chloro-5-fluorophenyl)-3-buten-2-one (0.24 g). The mixture was stirred at room temperature for 30 minutes, refluxed for 2 hours and cooled, and the solvent was evaporated. The residue was dissolved in water, and the aqueous layer was washed with ethyl acetate and concentrated. To the reside was added 2M sodium hydroxide (0.7 ml), and the mixture was refluxed for 2 hours cooled. To the mixture was added 2.5M sulfuric acid (0.7 ml), and the mixture was refluxed for 15 minutes. The mixture was extracted with ethyl acetate, and the organic layer was washed with water and saturated brine and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated to give 5-(2-chloro-5-fluorophenyl)cyclohexane-1,3-dione (0.17 g) as oil.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | diethyl malonate | 0.2 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 4-(2-chloro-5-fluorophenyl)-3-buten-2-one | 0.24 g | ClC1=C(C=C(C=C1)F)C=CC(C)=O | C10H8ClFO
solvent | ethanol | 0.43 g | C(C)O | C2H6O
product | 5-(2-chloro-5-fluorophenyl)cyclohexane-1,3-dione | 0.17 g | ClC1=C(C=C(C=C1)F)C1CC(CC(C1)=O)=O | C12H10ClFO2
